US07977481B2
Step 2: Synthesis of 5-[2-(Pyridin-3-ylamino)-pyrimidin-4-yl]-thiophene-2-carboxylic acid
5-[2-(Pyridin-3-ylamino)-pyrimidin-4-yl]-thiophene-2-carboxylic acid ethyl ester (76 mg, 0.209 mmol) was saponified by treatment with 4 N LiOH (0.524 mL, 2.09 mmol) in MeOH (1.5 mL) at 40° C. for 15 h. 6 N HCl (2.09 mmol) was added and the mixture was diluted with water. The precipitate was collected by filtration, rinsed with EtOH and dried on vacuum to afford title compound (45 mg, 72%). The crude material was used in the next step.

reactant | 5-[2-(Pyridin-3-ylamino)-pyrimidin-4-yl]-thiophene-2-carboxylic acid ethyl ester | 0.209 mmol, 76 mg | C(C)OC(=O)C=1SC(=CC1)C1=NC(=NC=C1)NC=1C=NC=CC1 | C16H14N4O2S
reactant | LiOH | 2.09 mmol, 4 N, 0.524 mL | [Li+].[OH-]
reactant | HCl | 2.09 mmol, 6 N | Cl | ClH
solvent | MeOH | 1.5 mL | CO | CH4O
solvent | water | O | H2O
product | 5-[2-(Pyridin-3-ylamino)-pyrimidin-4-yl]-thiophene-2-carboxylic acid | 45 mg, 72% | N1=CC(=CC=C1)NC1=NC=CC(=N1)C1=CC=C(S1)C(=O)O | C14H10N4O2S
